US07402606B2
To a −78° C. solution of 9.09 mL (65 mmol) of diisopropylamine in 100 mL of tetrahydrofuran was added dropwise 40.5 mL (65 mmol) of 1.6 M n-butyl lithium in hexanes. The solution was allowed to warm to 0° C. briefly before being cooled to −78° C. To the solution was added 4.09 mL (30.9 mmol) of dimethyl (S)-(−)-malate dropwise and the resulting solution was allowed to warm to room temperature. After 30 min at room temperature, it was cooled to −78° C. before 2.3 mL (37.1 mmol) of methyl iodide was added dropwise. The solution was allowed to warm to room temperature, and was stirred for 18 h. It was then poured onto a mixture of ether, ice water, and 9.27 mL of acetic acid. The resulting mixture was extracted with ether, and the extracts were combined, washed with saturated sodium bicarbonate and brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with 3:7 ethyl acetate:hexanes to afford 1.04 g (5.9 mmol) of dimethyl (2S,3S)-2-hydroxy-3-methylbutanedioate.

reactant | diisopropylamine | 65 mmol, 9.09 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 65 mmol, 1.6 M, 40.5 mL | C(CCC)[Li]
reactant | dimethyl (S)-(−)-malate | 30.9 mmol, 4.09 mL | C([C@@H](O)CC(=O)OC)(=O)OC | C6H10O5
reactant | methyl iodide | 37.1 mmol, 2.3 mL | CI | CH3I
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | acetic acid | 9.27 mL | C(C)(=O)O | C2H4O2
solvent | ether | CCOCC | C4H10O
product | dimethyl (2S,3S)-2-hydroxy-3-methylbutanedioate | 5.9 mmol, 1.04 g | O[C@H](C(=O)OC)[C@@H](C(=O)OC)C | C7H12O5
